US09428508B2
Step C: [1,3]dioxolo[4′,5′:5,6]benzo[1,2-b]azet-6(7H)-one
To a slurry of chloral hydrate (1.39 g, 8.4 mmol) and sodium sulfate (6.91 g, 48.7 mmol) in water (23.1 mL) was added benzo[d][1,3]dioxol-4-amine (1.0 g, 7.3 mmol), hydroxylamine sulfate (6.24 g, 38 mmol) and diluted hydrochloric acid (1.2 N, 7.7 mL). After stirring at 60° C. for 1.5 hours, the reaction mixture was kept at 25° C. overnight. The brown solid was collected by filtration and washed with water. After drying under vacuum, the solid was taken up in methane sulfonic acid and the solution was heated at 45° C. for 30 minutes. The mixture was cooled to 0° C. and then poured into ice (200 g). A dark red solid was precipitated and collected by filtration, dried to afford the product (635 mg, yield 53%). 1H NMR (400 MHz, CDCl3) δ ppm 7.68 (br s, 1H), 7.35-7.37 (d, 1H, J=8.0 Hz), 6.59-6.61 (d, 1H, J=8.0 Hz), 6.13 (s, 2H).

reactant | chloral hydrate | 8.4 mmol, 1.39 g | ClC(C(O)O)(Cl)Cl | C2H3Cl3O2
reactant | sodium sulfate | 48.7 mmol, 6.91 g | S(=O)(=O)([O-])[O-].[Na+].[Na+]
reactant | benzo[d][1,3]dioxol-4-amine | 7.3 mmol, 1.0 g | O1COC2=C1C=CC=C2N | C7H7NO2
reactant | hydroxylamine sulfate | 38 mmol, 6.24 g | S(=O)(=O)(O)O.NO
reactant | hydrochloric acid | 1.2 N, 7.7 mL | Cl | ClH
solvent | water | 23.1 mL | O | H2O
product | [1,3]dioxolo[4′,5′:5,6]benzo[1,2-b]azet-6(7H)-one | 635 mg, yield 53% | O1COC=2C=CC3=C(NC3=O)C21 | C8H5NO3
